US08686150B2
1-Benzyl-5-ethyl-2,2,5-trimethyl-piperazine was synthesized in analogy to 6-benzyl-8,8-dimethyl-6,9-diaza-spiro[4.5]decane starting from 2-methylbutane 1,2-diamine and acetone cyanohydrin.

reactant | 6-benzyl-8,8-dimethyl-6,9-diaza-spiro[4.5]decane | C(C1=CC=CC=C1)N1C2(CCCC2)CNC(C1)(C)C | C17H26N2
reactant | 2-methylbutane 1,2-diamine | CC(CN)(CC)N | C5H14N2
reactant | acetone cyanohydrin | CC(C#N)(O)C | C4H7NO
product | 1-Benzyl-5-ethyl-2,2,5-trimethyl-piperazine | C(C1=CC=CC=C1)N1C(CNC(C1)(C)CC)(C)C | C16H26N2
